US05091367
24a. Fmoc-D-Trp-Ser(tBu)-OtBu
To a solution ob 17.1 g (40 mmol) of Fmoc-D-Trp-OH, 10.12 g of H-Ser(tBu)-OtBu.HCl and 5.4 g of HOBt in 100 ml of dimethylformamide, 5.2 ml of N-ethylmorpholine are added at 0° C. with stirring, followed by 8.8 g of DCC. After allowing to stir for 1 hour at 0° C. and 3 hours at room temperature, the precipitate is filtered off with suction and the filtrate is concentrated in vacuo. The residue is dissolved in ethyl acetate and washed successively with water, saturated NaHCO3 solution and water, dried over Na2SO4 and concentrated in vacuo. The solution of the resulting oil in 70 ml of diethyl ether is dropper with stirring into 700 ml of petroleum ether. The precipitate is filtered off with suction and dried.

reactant | Fmoc-D-Trp-OH | 40 mmol, 17.1 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H22N2O4
reactant | H-Ser(tBu)-OtBu.HCl | 10.12 g | N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C.Cl
reactant | HOBt | 5.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 8.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N-ethylmorpholine | 5.2 ml | C(C)N1CCOCC1 | C6H13NO
product | Fmoc-D-Trp-Ser(tBu)-OtBu | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C37H43N3O6
